US09278915B2
Compound 118: 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoic acid
To a 25 mL RB flask fitted with magnetic stirrer was charged 2 mL of Methanol and 2 mL of THF. To the stirred solvent was added methyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoate (0.04 g, 0.08 mmol) and NaOH was added followed by water (0.5 mL). Then it was stirred at RT for 12 h, after completion of the reaction (reaction monitored by TLC), reaction mixture was evaporated completely and the crude was washed with ether, and diluted with water and then neutralized with 1N HCl, then extracted with ethyl acetate, organic layer was washed with water and brine, dried over Na2SO4. The organic layer was evaporated on rotavapor under reduced pressure to give the product as a white colour solid. (0.02 g, yield: 52.6%); Purity: 45.3% and 43.6%.

reactant | Methanol | 2 mL | CO | CH4O
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | methyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoate | 0.08 mmol, 0.04 g | OC(CC(=O)OC)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC\C(\C1=CC=CC=C1)=N/OC | C26H27NO6
reactant | NaOH | [OH-].[Na+]
solvent | water | 0.5 mL | O | H2O
product | 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoic acid | yield: 52.6% | OC(CC(=O)O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC\C(\C1=CC=CC=C1)=N/OC | C25H25NO6
